US08877754B2
N-Ethyl-2-[4-(4-isopropyl-phenylethynyl)-phenyl]-propionamide
To 0.025 g (0.10 mmol) 4-iodoisopropylbenzene are added 20 g (0.10 mmol) N-ethyl-2-(4-ethynyl-phenyl)-propionamide (XVII.1) in 1 mL THF, followed by the addition of 0.5 mL 2-butylamine and 0.75 mL water. Subsequently 3 mg (0.05 mmol) bis-(triphenylphosphine)-palladium dichloride are added and the mixture is stirred at 80° C. for 5 h. After that time, the solvent is removed. The residue is taken up in DMF and the desired product was purified using RP-HPLC (water/MeOH+0.1% TFA).

reactant | 4-iodoisopropylbenzene | 0.10 mmol, 0.025 g | IC1=CC=C(C=C1)C(C)C | C9H11I
reactant | N-ethyl-2-(4-ethynyl-phenyl)-propionamide | 0.10 mmol, 20 g | C(C)NC(C(C)C1=CC=C(C=C1)C#C)=O | C13H15NO
reactant | 2-butylamine | 0.5 mL | CC(CC)N | C4H11N
reactant | water | 0.75 mL | O | H2O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
catalyst | bis-(triphenylphosphine)-palladium dichloride | 0.05 mmol, 3 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-Ethyl-2-[4-(4-isopropyl-phenylethynyl)-phenyl]-propionamide | C(C)NC(C(C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C(C)C)=O | C22H25NO
